US07332485B2
(3S,5R)-1-(Benzyloxyamino-Methyl)-3,5-Dimethyl-Cyclohexanecarboxylic Acid
A solution of (3S,5R)-1-(benzyloxyimino-methyl)-3,5-dimethyl-cyclohexanecarboxylic acid (1.8 g, 6.2 mmol) in methanol (120 mL) at 0° C. under a nitrogen atmosphere was added a trace amount of methyl orange. A solution of saturated methanolic HCl was added until a persistent red color was observed. Sodium cyanoborohydride (0.51 g, 8.1 mmol) was added portionwise alternately with methanolic HCl to maintain the red color. The reaction mixture was maintained at 0° C. for an additional 0.5 h and the volatiles were removed in vacuo. The product was used without further purification. MH+292.

reactant | (3S,5R)-1-(benzyloxyimino-methyl)-3,5-dimethyl-cyclohexanecarboxylic acid | 6.2 mmol, 1.8 g | C(C1=CC=CC=C1)ON=CC1(C[C@H](C[C@H](C1)C)C)C(=O)O | C17H23NO3
reactant | methyl orange | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
reactant | HCl | Cl | ClH
reactant | Sodium cyanoborohydride | 8.1 mmol, 0.51 g | C(#N)[BH3-].[Na+]
solvent | methanol | 120 mL | CO | CH4O
product | (3S,5R)-1-(Benzyloxyamino-Methyl)-3,5-Dimethyl-Cyclohexanecarboxylic Acid | C(C1=CC=CC=C1)ONCC1(C[C@H](C[C@H](C1)C)C)C(=O)O | C17H25NO3
